US04510149
To a suspension of 1,2-dihydro-3-(1-imidazolyl)-6-carboxy-naphthalene (500 mg) in DMF (10 ml) SOCl2 (2 ml) was added. Cooling in an ice bath, NH3 was passed through the reaction mixture, with stirring, for 5 hours. The reaction mixture was allowed to stand for 12 hours. The ammonium salt was filtered off and Et2O was added giving a precipitate which was chromatographed on silica gel with CHCl3 :CH3OH:CH3COOH (45:5:2.5) as eluant; 350 mg of 1,2-dihydro-3-(1-imidazolyl)-6-carbamoyl-naphthalene were obtained.

reactant | 1,2-dihydro-3-(1-imidazolyl)-6-carboxy-naphthalene | 500 mg | N1(C=NC=C1)C=1CCC2=CC=C(C=C2C1)C(=O)O | C14H12N2O2
reactant | NH3 | N | H3N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1,2-dihydro-3-(1-imidazolyl)-6-carbamoyl-naphthalene | 350 mg | N1(C=NC=C1)C=1CCC2=CC=C(C=C2C1)C(N)=O | C14H13N3O
